US07279467B2
60.1) 2-(2,6-difluorophenyl)-4-nitro-1,3-benzoxazole
2 g (32.4 mmol; 1 eq.) of boric acid is added to a solution of 5 g (32.4 mmol) of 2-amino-3-nitrophenol and 5.12 g (32.4 mmol; 1 eq.) of 2,6-difluorobenzoic acid in 50 ml of xylene. The mixture is heated under reflux of the xylene for 8 hours with elimination of the water formed by a Dean-Stark apparatus. After returning to ambient temperature, the reaction medium is diluted by 100 ml of ethyl acetate and neutralized by a 10% aqueous solution of soda. The organic phase is washed 3 times with 50 ml of water then with a saturated solution of NaCl before being dried over sodium sulphate, filtered and concentrated under reduced pressure. The 2-(2,6-difluorophenyl)-4-nitro-1,3-benzoxazole is used without other purification in the following stage.

reactant | boric acid | 32.4 mmol, 2 g, 1 eq. | B(O)(O)O | BH3O3
reactant | 2-amino-3-nitrophenol | 32.4 mmol, 5 g | NC1=C(C=CC=C1[N+](=O)[O-])O | C6H6N2O3
reactant | 2,6-difluorobenzoic acid | 32.4 mmol, 5.12 g, 1 eq. | FC1=C(C(=O)O)C(=CC=C1)F | C7H4F2O2
reactant | water | O | H2O
solvent | xylene | 50 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 2-(2,6-difluorophenyl)-4-nitro-1,3-benzoxazole | FC1=C(C(=CC=C1)F)C=1OC2=C(N1)C(=CC=C2)[N+](=O)[O-] | C13H6F2N2O3
